US04215047
7-(Nα -carbobenzoxy-L-arginyl)amino-4-methyl-coumarin hydrochloric acid salt (251 mg, 0.5 mM) was dissolved in a mixture of methyl alcohol (50 ml), acetic acid (5 ml) and water (10 ml), and 5% palladium-carbon catalyst (25 mg) was added thereto. This mixture was stirred while being treated with hydrogen gas at room temperature. The catalyst was removed by filtration, and from the filtrate the solvent was distilled off under reduced pressure. To the residue ether (50 ml) was added and the precipitated powder was separated by filtration to give 7-L-arginylamino-4-methylcoumarin hydrochloric acid salt hemihydrate (188 mg, yield: 100%).

reactant | 7-(Nα -carbobenzoxy-L-arginyl)amino-4-methyl-coumarin hydrochloric acid salt | 0.5 mM, 251 mg | Cl.C(=O)(OCC1=CC=CC=C1)N[C@@H](CCCNC(N)=N)C(=O)NC1=CC=C2C(=CC(OC2=C1)=O)C
reactant | hydrogen | [H][H] | H2
solvent | methyl alcohol | 50 ml | CO | CH4O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
catalyst | palladium-carbon | 25 mg | [C].[Pd]
product | 7-L-arginylamino-4-methylcoumarin hydrochloric acid salt hemihydrate | 188 mg, yield: 100% | O.Cl.N[C@@H](CCCNC(N)=N)C(=O)NC1=CC=C2C(=CC(OC2=C1)=O)C.N[C@@H](CCCNC(N)=N)C(=O)NC1=CC=C2C(=CC(OC2=C1)=O)C.Cl | InChI=1S/2C16H21N5O3.2ClH.H2O/c2*1-9-7-14(22)24-13-8-10(4-5-11(9)13)21-15(23)12(17)3-2-6-20-16(18)19;;;/h2*4-5,7-8,12H,2-3,6,17H2,1H3,(H,21,23)(H4,18,19,20);2*1H;1H2/t2*12-;;;/m00.../s1
